US07834013B2
(+)-(Trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic Acid (III-3c)
Experimental procedure analogous to that described for synthesis of compounds III-2a and III-3a but instead using (+)-(trans)-ethyl-2-(4-aminophenyl)cyclopropanecarboxylate (III-1b) (0.61 g, 2.97 mmol) and 4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carbaldehyde to give 0.30 g (25% yield) of pure title compound as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=7.87 Hz, 2H), 7.65 (d, J=8.24 Hz, 2H), 6.97 (d, J=8.42 Hz, 2H), 6.60 (d, J=8.61 Hz, 2H), 4.46 (s, 2H), 2.51 (m, 1H), 2.50 (s, 3H), 1.79 (m, 1H), 1.59 (m, 1H), 1.35 (m, 1H). ES-MS m/z 432 (MH+). [α]25,D=+128° (chloroform, c=3.8). Product was determined to be 96% ee by chiral SFC according to Method 2.

reactant | (+)-(trans)-ethyl-2-(4-aminophenyl)cyclopropanecarboxylate | 2.97 mmol, 0.61 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C12H15NO2
reactant | 4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carbaldehyde | CC=1N=C(SC1C=O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NOS
product | (+)-(Trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic Acid | 0.30 g, 25% yield | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2S
